US08809548B2
N,N-Diisopropylethylamine (18 mL, 103.3 mmol) was added dropwise, over 15 minutes, to a heterogeneous mixture of N-Boc-L-proline (7.139 g, 33.17 mmol), HATU (13.324 g, 35.04 mmol), the HCl salt of 2-amino-1-(4-bromo-phenyl)ethanone (8.127 g, 32.44 mmol), in dimethylformamide (105 mL) and stirred at ambient condition for 55 minutes. Dimethylformamide was removed in vacuo, and the resulting residue was partitioned between ethyl acetate (300 mL) and water (200 mL). The organic layer was washed with water (200 mL) and brine, dried (MgSO4), filtered, and concentrated. A silica gel mesh was prepared from the residue and submitted to flash chromatography (silica gel; 50-60% ethyl acetate/hexanes) to provide J.6 (S)-tert-butyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)pyrrolidine-1-carboxylate as a white solid (12.8 g). NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): δ8.25-8.14 (m, 1H), 7.92 (br d, J=8.0, 2H), 7.75 (br d, J=8.6, 2H), 4.61 (dd, J=18.3, 5.7, 1H), 4.53 (dd, J=18.1, 5.6, 1H), 4.22-4.12 (m, 1H), 3.43-3.35 (m, 1H), 3.30-3.23 (m, 1H), 2.18-2.20 (m, 1H), 1.90-1.70 (m, 3H), 1.40/1.34 (two app br s, 9H). LC (Cond.-31): RT=1.70 min; LCMS: Anal. Calcd. For [M+Na]+ C18H23BrN2NaO4: 433.07; found 433.09.

reactant | N,N-Diisopropylethylamine | 103.3 mmol, 18 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Boc-L-proline | 33.17 mmol, 7.139 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | HATU | 35.04 mmol, 13.324 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | Cl | ClH
reactant | 2-amino-1-(4-bromo-phenyl)ethanone | 32.44 mmol, 8.127 g | NCC(=O)C1=CC=C(C=C1)Br | C8H8BrNO
solvent | dimethylformamide | 105 mL | CN(C=O)C | C3H7NO
product | (S)-tert-butyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)pyrrolidine-1-carboxylate | 12.8 g | BrC1=CC=C(C=C1)C(CNC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C18H23BrN2O4
